US03947470
Reaction of 2-(2-diethylaminoethoxy)benzoate hydrochloride with thionyl chloride as described in the procedure of Example 6 gives 2-(2-diethylaminoethoxy)benzoyl chloride hydrochloride.

reactant | 2-(2-diethylaminoethoxy)benzoate hydrochloride | Cl.C(C)N(CCOC1=C(C(=O)O)C=CC=C1)CC
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-(2-diethylaminoethoxy)benzoyl chloride hydrochloride | Cl.C(C)N(CCOC1=C(C(=O)Cl)C=CC=C1)CC | InChI=1S/C13H18ClNO2.ClH/c1-3-15(4-2)9-10-17-12-8-6-5-7-11(12)13(14)16;/h5-8H,3-4,9-10H2,1-2H3;1H
